US06943159B1
5-Bromo-3-cyclohexyl-7-sulfamoyl-1,2,3,4-tetrahydro-1,2,4-benzothiadiazine-1,1-dioxide (101):
2-Amino-3-bromo-5-sulfamoylbenzenesulfonamide was transformed by Method G (using cyclohexanecarboxaldehyde). M.p. 254-258° C.

reactant | 2-Amino-3-bromo-5-sulfamoylbenzenesulfonamide | NC1=C(C=C(C=C1Br)S(N)(=O)=O)S(=O)(=O)N | C6H8BrN3O4S2
reactant | cyclohexanecarboxaldehyde | C1(CCCCC1)C=O | C7H12O
product | 5-Bromo-3-cyclohexyl-7-sulfamoyl-1,2,3,4-tetrahydro-1,2,4-benzothiadiazine-1,1-dioxide | BrC1=CC(=CC2=C1NC(NS2(=O)=O)C2CCCCC2)S(N)(=O)=O | C13H18BrN3O4S2
